US04626533
1.0 g. of 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid and 0.39 g. of 2-mercapto-4-phenyl-1,3-thiazole were reacted and worked up according to the method of Example 15. Thus 0.78 g. o(62%) of 7-(4-phenyl-1,3-thiazole-2-ylthio)acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-bromoacetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | BrCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C17H14BrCl2N3O5S
reactant | 2-mercapto-4-phenyl-1,3-thiazole | SC=1SC=C(N1)C1=CC=CC=C1 | C9H7NS2
product | 7-(4-phenyl-1,3-thiazole-2-ylthio)acetamido-3-(2,6-dichlorobenzoylamino)methylceph-3-em-4-carboxylic acid | Yield: 62% | C1(=CC=CC=C1)C=1N=C(SC1)SCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C2=C(C=CC=C2Cl)Cl)=O)C(=O)O)C1=O | C26H20Cl2N4O5S3
